US07884119B2
Alternatively, to a solution of 5-amino-3-[3-(hydroxy)phenylamino]-1-(3-(methyl)phenyl)carbonyl-1H-1,2,4-triazole (Ia-7) (0.84 g, 2.7 mmol) in 2-butanone (9 mL) was added K2CO3 (0.41 g, 3.0 mmol) and BrCH2CN (0.36 g, 3.0 mmol). After stirring the mixture at 75° C. for 20 h, the 2-butanone was removed under reduced pressure. The residue was dissolved in EtOAc (50 mL), washed with water (50 mL), brine (30 mL), dried (Na2SO4) and concentrated to afford the crude product: Recrystallization from CH3CN afforded 5-amino-3-[3-(cyanomethoxy)phenylamino]-1-(3-(methyl)phenyl)carbonyl-1H-1,2,4-triazole (Ia-9) (0.12 g, 13%) as a white solid: Rf 0.22 (1:1 hexanes/ethyl acetate); mp (DSC) 220.0-224.4° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.45 (s, 1H), 8.05 (s, 1H), 7.91 (d, J=7.1 Hz, 1H), 7.83 (s, 2H), 7.50-7.39 (m, 3H), 7.20 (t, J=8.1 Hz, 1H), 7.12-7.09 (m, 1H), 6.56 (dd, J=7.9, 2.2 Hz, 1H), 5.04 (s, 2H), 2.43 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 166.6, 157.9, 157.2, 156.9, 142.3, 137.2, 133.0, 132.6, 130.8, 129.5, 127.8, 127.4, 116.5, 111.1, 105.2, 104.0, 53.3, 20.8; IR (ATR) 3449, 3367, 2325, 1684 cm−1; APCI MS m/z 349 [C18H16N6O2+H]+; HPLC (Method A) 96.8% (AUC), tR=12.81 min.

reactant | 5-amino-3-[3-(hydroxy)phenylamino]-1-(3-(methyl)phenyl)carbonyl-1H-1,2,4-triazole | 2.7 mmol, 0.84 g | NC1=NC(=NN1C(=O)C1=CC(=CC=C1)C)NC1=CC(=CC=C1)O | C16H15N5O2
reactant | K2CO3 | 3.0 mmol, 0.41 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BrCH2CN | 3.0 mmol, 0.36 g | BrCC#N | C2H2BrN
solvent | 2-butanone | 9 mL | CC(CC)=O | C4H8O
product | 5-amino-3-[3-(cyanomethoxy)phenylamino]-1-(3-(methyl)phenyl)carbonyl-1H-1,2,4-triazole | NC1=NC(=NN1C(=O)C1=CC(=CC=C1)C)NC1=CC(=CC=C1)OCC#N | C18H16N6O2
